US09353108B2
B) Ethyl 3-(benzyloxy)-5-ethoxy-4-iodobenzoate
Benzyl bromide (2.95 mL) was added to a DMF (200 mL) suspension of ethyl 3-ethoxy-5-hydroxy-4-iodobenzoate (7.59 g) and potassium carbonate (4.68 g), and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (7.09 g).

reactant | Benzyl bromide | 2.95 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | ethyl 3-ethoxy-5-hydroxy-4-iodobenzoate | 7.59 g | C(C)OC=1C=C(C(=O)OCC)C=C(C1I)O | C11H13IO4
reactant | potassium carbonate | 4.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Ethyl 3-(benzyloxy)-5-ethoxy-4-iodobenzoate | 7.09 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)OCC | C18H19IO4
